US07872009B2
Step 1: Ethyl 5-(cyclohexylmethyl)-1-(methylsulfonyl)piperidine-3-carboxylate
Triethylamine (340 mL, 2.4 mmol) was added to a solution of ethyl 5-(cyclohexylmethyl)piperidine-3-carboxylate (155 mg, 0.60 mmol) and methanesulfonyl chloride (75 mL, 0.90 mmol) in CH2Cl2 (6 mL) cooled to 0° C. The reaction was maintained at this temperature for 15 min at which point the whole was allowed to warm to RT and stir for an additional 3 h. The reaction was diluted with CH2Cl2 (20 mL) and poured into HCl (1 N, 20 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic layers were sequentially washed with H2O (10 mL) and brine before being dried over Na2SO4. Concentration under reduced pressure provided the title compound. MS m/z: 332.1 (M+1).

reactant | Triethylamine | 2.4 mmol, 340 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-(cyclohexylmethyl)piperidine-3-carboxylate | 0.60 mmol, 155 mg | C1(CCCCC1)CC1CC(CNC1)C(=O)OCC | C15H27NO2
reactant | methanesulfonyl chloride | 0.90 mmol, 75 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1 N, 20 mL | Cl | ClH
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(cyclohexylmethyl)-1-(methylsulfonyl)piperidine-3-carboxylate | C1(CCCCC1)CC1CC(CN(C1)S(=O)(=O)C)C(=O)OCC | C16H29NO4S
